US08685274B2
DME (1,2-dimethoxyethane; 80 ml) and 5-(ethylsulfonyl)-1-phenyl-1H-tetrazole (4.62 g) were added to 4-(3-propylcyclopentyl)cyclohexanecarboaldehyde (3.29 g) obtained in the second step in Example 3, in a reaction vessel under an atmosphere of nitrogen, and the mixture was cooled to −70° C., and then KHMDS (Potassium Hexamethyldisilazide; 20%, in a THF solution) (23.9 ml) was added dropwise. The reaction solution was warmed to room temperature, and was extracted with diethyl ether after the addition of water (50 ml). The resulting organic layer was washed with water and dried over anhydrous sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate/n-heptane= 1/9 by volume) and then purified by means of a preparative HPLC system, Model PLC-561 made by GL Sciences Inc. to give (E)-1-(prop-1-enyl)-4-(3-propylcyclopentyl)cyclohexane (2.0 g).

reactant | DME | 80 ml | COCCOC | C4H10O2
reactant | 5-(ethylsulfonyl)-1-phenyl-1H-tetrazole | 4.62 g | C(C)S(=O)(=O)C1=NN=NN1C1=CC=CC=C1 | C9H10N4O2S
reactant | 4-(3-propylcyclopentyl)cyclohexanecarboaldehyde | 3.29 g | C(CC)C1CC(CC1)C1CCC(CC1)C=O | C15H26O
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Potassium Hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | (E)-1-(prop-1-enyl)-4-(3-propylcyclopentyl)cyclohexane | 2.0 g | C(=C\C)/C1CCC(CC1)C1CC(CC1)CCC | C17H30
